US05331084
Preparation of 2,3-epoxy-5-(perfluorohexyl)bicyclo[2.2.1]heptane
103 g (250 mmol) of the Diels-Alder reaction product of 3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluoro-1-octene (perfluorohexylethene) and cyclopentadiene are mixed in 10 ml of dry toluene with 815 mg (2.5 mmol) of molybdenum acetylacetonate, and 104 ml of a 3.6 molar solution oft-butyl hydroperoxide in toluene (375 mmol) are added dropwise at 25° C. within 50 minutes. During this time, the temperature rises to 45° C. The solution is then held at 60° C. for 24 hours, after which the solvent, t-butanol and any remaining t-butyl hydroperoxideis distilled off in a rotary evaporator under reduced pressure. The residueis filtered over silica gel, followed by washing with two 10 ml portions oftoluene. In the course of the distillation over a packed column 15 cm long which is packed with 4 mm glass rings, the product distils at a pressure of 350 mbar and a boiling point of 54° to 56° C.

reactant | 3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluoro-1-octene | FC(C=C)(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C8H3F13
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | butyl hydroperoxide | C(CCC)OO | C4H10O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 375 mmol | C1(=CC=CC=C1)C | C7H8
product | 2,3-epoxy-5-(perfluorohexyl)bicyclo[2.2.1]heptane | O1C2C3CC(C(C21)C3)C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C13H9F13O
